US09428510B2
tert-butyl 4-(1-methylpiperidin-4-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoate
7.18 mL of 2,2,2-trifluoroacetic acid (93 mmol), 4.11 mg of dihydro-2H-pyran-4(3H)-one (44.5 mmol) and then 14.5 g of tetramethylammonium triacetoxyborohydride (53.8 mmol) are successively added to a solution of 15 g of tert-butyl 2-amino-4-(1-methylpiperidin-4-yl)benzoate in 200 mL of dichloromethane under stirring. The reaction medium is stirred at room temperature for 2 h and then taken up with a 1N soda solution. The organic phase is isolated, dried on magnesium sulfate and then dried concentrated. The residue contained always HI. It is thus taken up in dichloromethane and washed with 100 mL of a 1H soda solution. The organic phase is decanted, dried on magnesium sulfate and dry concentrated to yield 14.6 g of a yellow solid (quantitative yield).

reactant | 2,2,2-trifluoroacetic acid | 93 mmol, 7.18 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dihydro-2H-pyran-4(3H)-one | 44.5 mmol, 4.11 mg | O1CCC(CC1)=O | C5H8O2
reactant | tetramethylammonium triacetoxyborohydride | 53.8 mmol, 14.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | tert-butyl 2-amino-4-(1-methylpiperidin-4-yl)benzoate | 15 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1CCN(CC1)C | C17H26N2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(1-methylpiperidin-4-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoate | 14.6 g, quantitative yield | CN1CCC(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCOCC1 | C22H34N2O3
